US07173135B2
iv) Preparation of 3-cyano-4-hydroxy-7-methoxy-5-[(1-methylpiperidin-4-yl)oxy]quinoline
A mixture of 3-cyano-7-fluoro-4-hydroxy-5-[(1-methylpiperidin-4-yl)oxy]quinoline (600 mg), methanol (0.40 ml) and potassium tert-butoxide (1.0M solution in tetrahydrofuran; 10.0 ml) in anhydrous dimethyl sulphoxide (20 ml) was heated at 70° C. for 16 hours. The solution was cooled and then diluted with water (100 ml). Dilute hydrochloric acid was added until pH6 was reached and the by-product precipitate (3-cyano-4-hydroxy-5,7-dimethoxyquinoline) was filtered off. The filtrate was pumped onto a cation exchange cartridge (Waters Oasis MCX 6.0 g) and washed on with water. The column was flushed successively with water (200 ml), methanol/water (1:1; 200 ml) and methanol (200 ml). The product was eluted off the column with methanol containing triethylamine (1%). The fractions containing the product were combined and evaporated. This gave the title compound as an white solid (460 mg, 73%); NMR spectrum: (DMSOd6) 1.67 (m, 2H), 1.83 (m, 2H), 2.12 (m, 2H), 2.15 (s, 3H), 2.64 (m, 2H), 4.31 (m, 1H), 6.31 (d, 1H), 6.56 (d, 1H), 8.16 (s, 1H); Mass spectrum: M+H+ 314.

reactant | 3-cyano-7-fluoro-4-hydroxy-5-[(1-methylpiperidin-4-yl)oxy]quinoline | 600 mg | C(#N)C=1C=NC2=CC(=CC(=C2C1O)OC1CCN(CC1)C)F | C16H16FN3O2
reactant | methanol | 0.40 ml | CO | CH4O
reactant | potassium tert-butoxide | 1.0M, 10.0 ml | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulphoxide | 20 ml | CS(=O)C | C2H6OS
solvent | water | 100 ml | O | H2O
product | 3-cyano-4-hydroxy-7-methoxy-5-[(1-methylpiperidin-4-yl)oxy]quinoline | 460 mg, 73% | C(#N)C=1C=NC2=CC(=CC(=C2C1O)OC1CCN(CC1)C)OC | C17H19N3O3
